US03987199
7.0 G. of 4-amino-3-nitrobenzenesulfonamide is suspended in 150 ml. of methanol at room temperature and brominated with 5.2 g. of liquid bromine added dropwise over 15 minutes. The reaction mixture is filtered and the solid material recrystallized from isopropanol affording 4-amino-3-bromo-5-nitrobenzenesulfonamide, m.p. 216°-218° C.

reactant | 4-amino-3-nitrobenzenesulfonamide | NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H7N3O4S
reactant | bromine | BrBr | Br2
solvent | methanol | CO | CH4O
product | 4-amino-3-bromo-5-nitrobenzenesulfonamide | NC1=C(C=C(C=C1[N+](=O)[O-])S(=O)(=O)N)Br | C6H6BrN3O4S
